US06573273B1
A solution of 4-fluorophenylisocyanate (0.137 g, 1.0 mmol) in chloroform (5 mL) was added at ambient temperature to a solution of 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine (0.331 g, 1.0 mmol) in a mixture of chloroform (25 mL) and pyridine (5 mL). The reaction mixture was maintained at ambient temperature over the weekend. The reaction was quenched with ethanol. The resulting pale yellow precipitate (identified as the bis-adduct) was isolated by filtration. The filtrate was concentrated under vacuum to provide an off-white solid. This material was purified by flash chromatography (silica gel, eluting with 10% methanol in dichloromethane). The pure fractions were combined and concentrated under vacuum to provide 0.22 g of N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-(4-fluorophenyl)urea as a white solid, m.p. 145-150° C. Mass spec M+1=469.2. Analysis: C27H25FN6O: %C, 69.21; %H, 5.37; %N, 17.94; Found: %C, 66.70; %H, 5.33; %N, 17.03.

reactant | 4-fluorophenylisocyanate | 1.0 mmol, 0.137 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.0 mmol, 0.331 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C20H21N5
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-(4-fluorophenyl)urea | 0.22 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)NC2=CC=C(C=C2)F)C2=CC=CC=C2 | C27H25FN6O
